US06933305B2
By a similar reaction operation as in Starting Material Synthetic Example 53 using (S)-4-(tert-butoxycarbonylamino)-6-chlorothiochromane-7-carboxylic acid (250 mg), 4-aminopyridine (68.4 mg) and 2-chloro-1-methylpyridinium iodide (222 mg), the objective (S)-4-(tert-butoxycarbonylamino)-6-chloro-N-(4-pyridyl)thiochromane-7-carboxamide (317 mg) was obtained as a colorless amorphous solid.

reactant | (S)-4-(tert-butoxycarbonylamino)-6-chlorothiochromane-7-carboxylic acid | 250 mg | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=CC(=C(C=C12)Cl)C(=O)O | C15H18ClNO4S
reactant | 4-aminopyridine | 68.4 mg | NC1=CC=NC=C1 | C5H6N2
reactant | 2-chloro-1-methylpyridinium iodide | 222 mg | [I-].ClC1=[N+](C=CC=C1)C
product | (S)-4-(tert-butoxycarbonylamino)-6-chloro-N-(4-pyridyl)thiochromane-7-carboxamide | 317 mg | C(C)(C)(C)OC(=O)N[C@H]1CCSC2=CC(=C(C=C12)Cl)C(=O)NC1=CC=NC=C1 | C20H22ClN3O3S
